Circuito L2 Nat

.options savecurrents

*Capacitor
C 6 8 1.04791133328u ic=8.801255022

*Indepedent Voltage Source
Vs 1 0 0

*Resistors
R1 1 2 1.03504497262k
R2 3 2 2.01159104669k 
R3 2 5 3.03557466091k
R4 5 0 4.10235086526k
R5 5 6 3.09889833746k
R6 0 7 2.00952426524k
R7 ne 8 1.04158528578k

*Dummy 0V-Voltage Source to Measure Current through R6 (Ic)
Vaux 7 ne 0.0

*Current Controlled Voltage Source
Hc 5 8 Vaux 8.09359354837k

*Voltage Controlled Current Source
Gb 6 3 (2,5) 7.3172497028m

.ic v(6)=8.801255022 v(8)=0
.model linearcircuit NPN
.control
*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
run
tran 1u 20m 0 uic
hardcopy spicenat.ps v(6)
quit
.endc

.end
